US06548493B1
tert-butyl (±)-cis-2-[2-chloro-4-(trifluoromethyl)phenyl]-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate
The title compound was prepared by the method of Example 109 from tert-butyl (±)cis-2-bromo-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate (63 mg, 0.16 mmol) and 2-chloro-4-(trifluoromethyl)phenylboronic acid (69 mg, 0.32 mmol), after chromatographic purification (35.9 mg, 46%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.69 (s, 1H), 7.51 (bd, 1 H, J=8.0 Hz), 7.42 (d, 1H, J=8.1 Hz), 7.04 (s, 1H), 6.97 (s, 1H), 3.60-3.75 (m, 1H), 3.48-60 (m, 1H), 3.15-3.35 (m, 4H), 2.65-2.80 (m, 4H), 2.10-2.20 (m, 2H), 1.85-2.00 (m, 2H), 1.46 (s, 9H) ppm. MS (CI, NH3): 493 (base, M+H).

reactant | tert-butyl (±)cis-2-bromo-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | 0.16 mmol, 63 mg | BrC=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)C(=O)OC(C)(C)C | C19H25BrN2O2
reactant | 2-chloro-4-(trifluoromethyl)phenylboronic acid | 0.32 mmol, 69 mg | ClC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
product | tert-butyl (±)-cis-2-[2-chloro-4-(trifluoromethyl)phenyl]-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)C(=O)OC(C)(C)C | C26H28ClF3N2O2
